US05530019
Step 3: Preparation of (E)-4-[1-(4-isobutylphenyl)pentyloxy]-2butenoic acid
To a solution of (E)-ethyl 4-[1-(4-isobutylphenyl)pentyloxy]-2-butenoate in ethanol and 1,4-dioxane was added a 4N aqueous solution of sodium hydroxide. After being stirred at 80° C. for 5 hours, the mixture was cooled, concentrated and acidified with diluted hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and brine and dried over magnesium sulfate. Evaporation of the solvent and silica gel column chromatography of the residue afforded the object compound.

reactant | (E)-ethyl 4-[1-(4-isobutylphenyl)pentyloxy]-2-butenoate | C(C(C)C)C1=CC=C(C=C1)C(CCCC)OC/C=C/C(=O)OCC | C21H32O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (E)-4-[1-(4-isobutylphenyl)pentyloxy]-2butenoic acid | C(C(C)C)C1=CC=C(C=C1)C(CCCC)OC/C=C/C(=O)O | C19H28O3
